US07560565B2
Preparation of 2-cyano-3,4-dimethoxypyridine
3 g (0.017 moles) of 2-cyano-3-methoxy-4-nitropyridine obtained in Example a) and a sodium methoxide solution prepared from 0.77 g (0.033 moles) of sodium and 65 ml of methanol are stirred at ambient temperature for 4 hours. There is added 100 ml of water, the methanol is eliminated and the aqueous phase is extracted with dichloromethane. The organic phase is washed with water, dried, concentrated and the residue chromatographed (ethyl acetate/heptane, 1:1) to obtain 1.96 g (72% yield) of a white solid (MP=133° C.).

reactant | 2-cyano-3-methoxy-4-nitropyridine | 0.017 moles, 3 g | C(#N)C1=NC=CC(=C1OC)[N+](=O)[O-] | C7H5N3O3
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 0.033 moles, 0.77 g | [Na] | Na
solvent | methanol | CO | CH4O
solvent | water | 100 ml | O | H2O
solvent | methanol | 65 ml | CO | CH4O
product | 2-cyano-3,4-dimethoxypyridine | 1.96 g, 72% yield | C(#N)C1=NC=CC(=C1OC)OC | C8H8N2O2
